US04367235
6-tert.-Butyl-4-[2-hydroxy-3-(2-propylamino)-propoxy]-2-benzimidazolinone
Excess phosgene is passed at 20° to 25° C. into a solution of 5.5 g 5-tert.-butyl-2,3-diamino-1-[2-hydroxy-3-(2-propylamino)-propoxy]-benzene trihydrochloride in 50 ml. water, then thoroughly flushed with nitrogen, evaporated and the residue taken up in isopropanol. After a short time 2.3 g. (43% of theory) crystalline 6-tert.-butyl-4-[2-hydroxy-3-(2-propylamino)-propoxy]-2-benzimidazolinone hydrochloride precipitates out; decomposition point above 280° C.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 5-tert.-butyl-2,3-diamino-1-[2-hydroxy-3-(2-propylamino)-propoxy]-benzene trihydrochloride | 5.5 g | Cl.Cl.Cl.C(C)(C)(C)C=1C=C(C(=C(C1)OCC(CNC(C)C)O)N)N
product | 6-tert.-Butyl-4-[2-hydroxy-3-(2-propylamino)-propoxy]-2-benzimidazolinone | C(C)(C)(C)C=1C=C(C2=C(NC(N2)=O)C1)OCC(CNC(C)C)O | C17H27N3O3
